US04792628
Into a solution of 11.5 g of 4-methyl-6-nitro-7-hydroxy-1-indanone in 500 ml of acetic acid was added 1.5 g of 5% palladium carbon, then the mixture was subjected to a catalytic hydrogenation under an atmospheric pressure at a room temperature. The catalyst was removed by filtration and the solvent was removed by evaporation. The residue obtained was washed with ether and was recrystallized from methanol to obtain 6.34 g of 4-methyl-6-acetamido-7-hydroxy-1-indanone.

reactant | 4-methyl-6-nitro-7-hydroxy-1-indanone | 11.5 g | CC1=C2CCC(C2=C(C(=C1)[N+](=O)[O-])O)=O | C10H9NO4
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 1.5 g | [C].[Pd]
product | 4-methyl-6-acetamido-7-hydroxy-1-indanone | 6.34 g | CC1=C2CCC(C2=C(C(=C1)NC(C)=O)O)=O | C12H13NO3
